US06469020B2
1,2,3,4-Tetrahydro-β-carboline-9-carboxylic Acid 2,2,2-Trichloro-ethyl Ester
3,4-Dihydro-1H-β-carboline-2,9-dicarboxylic acid 2-tert-butyl ester 9-(2,2,2-trichloro-ethyl) ester (3.53 g) and trifluoroacetic acid (5 ml) in dichloromethane (30 ml) were stirred at room temperature for 1.5 h. The mixture was partitioned between 6N NaOH solution (70 ml) and dichloromethane (50 ml). The dichloromethane was washed with water (50 ml) and dried (MgSO4) then the solvent removed under reduced pressure to give the title compound (2.25 g, 81%) as a yellow solid.

reactant | 3,4-Dihydro-1H-β-carboline-2,9-dicarboxylic acid 2-tert-butyl ester 9-(2,2,2-trichloro-ethyl) ester | 3.53 g | ClC(COC(=O)N1C2=CC=CC=C2C=2CCN(CC12)C(=O)OC(C)(C)C)(Cl)Cl | C19H21Cl3N2O4
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1,2,3,4-Tetrahydro-β-carboline-9-carboxylic Acid 2,2,2-Trichloro-ethyl Ester | 2.25 g, 81% | ClC(COC(=O)N1C2=CC=CC=C2C=2CCNCC12)(Cl)Cl | C14H13Cl3N2O2
